US08486979B2
5-(benzo[d][1,2,3]thiadiazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using benzo[d][1,2,3]thiadiazole-5-carboxylic acid (Maybridge) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 7.69 (ddd, J=8.0, 4.9, 0.7 Hz, 1 H), 8.51 (dt, J=8.2, 1.9, 1.7 Hz, 1 H), 8.57 (dd, J=8.5, 1.7 Hz, 1 H), 8.73 (d, J=7.8 Hz, 1 H), 8.85 (dd, J=4.9, 1.5 Hz, 1 H), 9.32 (dd, J=2.4, 1.0 Hz, 1 H), 9.51 (dd, J=1.7, 0.7 Hz, 1 H) ppm; MS (DCI/NH3) m/z 282 (M+H)+.

reactant | benzo[d][1,2,3]thiadiazole-5-carboxylic acid | S1N=NC2=C1C=CC(=C2)C(=O)O | C7H4N2O2S
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(benzo[d][1,2,3]thiadiazol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | S1N=NC2=C1C=CC(=C2)C2=NC(=NO2)C=2C=NC=CC2 | C13H7N5OS
